US07816557B2
Step C. Racemic 3-{4-[1-(4-Bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester
Racemic 4-[1-(4-bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoic acid (7.46 g, 17.89 mmol), 2-chloro-4,6-dimethoxy-1,3,5-triazine (3.23 g, 18.43 mmol) and 4-methylmorpholine (2.07 mL, 18.78 mmol) are combined in anhydrous dichloromethane (100 mL) under nitrogen. The reaction is allowed to stir under nitrogen at room temperature overnight. Beta alanine methyl ester hydrochloride (2.76 g, 19.68 mmol) and 4-methylmorpholine (4.14 mL, 37.56 mmol) is added to the reaction mixture and allowed to stir at room temperature. Some water (<10% volume) is added to help solubility. The reaction is monitored by HPLC, and upon complete consumption of the acid, the reaction is diluted with dichloromethane. The reaction is diluted with water and rinsed with 1N hydrochloric acid. Upon acidification, the two layers are separated. The organic layer is washed with brine, dried over anhydrous sodium sulfate, and concentrated. Flash column chromatography gave the title compound (7.07 g, 14.1 mmol).

reactant | Racemic 4-[1-(4-bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoic acid | 17.89 mmol, 7.46 g | BrC1=CC=C(OC(CCCC(F)(F)F)C2=CC=C(C(=O)O)C=C2)C=C1 | C18H16BrF3O3
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 18.43 mmol, 3.23 g | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 4-methylmorpholine | 18.78 mmol, 2.07 mL | CN1CCOCC1 | C5H11NO
reactant | Beta alanine methyl ester hydrochloride | 19.68 mmol, 2.76 g | Cl.COC(CCN)=O
reactant | 4-methylmorpholine | 37.56 mmol, 4.14 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Racemic 3-{4-[1-(4-Bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester | 14.1 mmol, 7.07 g | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC=C(C=C1)Br)=O)=O | C22H23BrF3NO4
